US04968717
5-[(4-Chlorophenethyl)-methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile
29.0 g (0.1 mole) of 5-methylamino-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile and 21.0 g (0.12 mole) of 4-chlorophenethyl chloride were reacted similarly to Example 5, and 27.9 g (60%) of base were isolated after chromatographic purification. The base was converted to the amidosulfonate. Mp. 122°-123° C.

reactant | 5-methylamino-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile | 0.1 mole, 29.0 g | CNCCCC(C#N)(C(C)C)C1=CC(=CC(=C1)OC)OC | C17H26N2O2
reactant | 4-chlorophenethyl chloride | 0.12 mole, 21.0 g | ClC1=CC=C(CCCl)C=C1 | C8H8Cl2
product | 5-[(4-Chlorophenethyl)-methylamino]-2-(3,5-dimethoxyphenyl)-2-isopropylvaleronitrile | 27.9 g, 60% | ClC1=CC=C(CCN(CCCC(C#N)(C(C)C)C2=CC(=CC(=C2)OC)OC)C)C=C1 | C25H33ClN2O2
